US08067445B2
Step 1: [2′-(N′-Cyano-N-ethyl-N″-pyridin-2-ylmethyl-guanidinomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 33, Step 6, using the following starting materials: [2′-(3-cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester and 2-(aminomethyl)pyridine.

reactant | [2′-(3-cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(OC1=CC=CC=C1)=NC#N)CC)=O | C29H28F3N3O4
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
product | [2′-(N′-Cyano-N-ethyl-N″-pyridin-2-ylmethyl-guanidinomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=NC#N)NCC1=NC=CC=C1)CC)=O | C29H30F3N5O3
